US09260429B2
(A) N-(4-Chloro-phenyl)-N-(2-piperidin-1-yl-ethyl)-hydrazine
1-(2-Chloro-ethyl)piperidine (5 g, 27.9 mmol) was added to a vigorously stirred mixture of 4-chlorophenyl hydrazine hydrochloride (5 g, 27.9 mmol) and tetra-n-butylammonium chloride (0.40 g) in 50% aqueous sodium hydroxide (30 mL). The reaction was heated to 80° C. (oil bath temperature) for 3.5 h. The reaction was cooled, diluted with water and extracted with chloroform. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure to give a red oil. The oil was subjected to column chromatography (silica gel, eluent: 10% methanol in chloroform) to give a red oil (˜3 g). This was purified again by column chromatography (silica gel, eluent: {tilde over (5)}10% methanol in chloroform) to give a red oil (1.77 g, 25%).

reactant | 1-(2-Chloro-ethyl)piperidine | 27.9 mmol, 5 g | ClCCN1CCCCC1 | C7H14ClN
reactant | 4-chlorophenyl hydrazine hydrochloride | 27.9 mmol, 5 g | Cl.ClC1=CC=C(C=C1)NN
reactant | methanol | CO | CH4O
catalyst | tetra-n-butylammonium chloride | 0.40 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 30 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-Chloro-phenyl)-N-(2-piperidin-1-yl-ethyl)-hydrazine | ˜3 g | ClC1=CC=C(C=C1)N(N)CCN1CCCCC1 | C13H20ClN3
